US07189741B2
C. Preparation of 5-{4-[1-(2-[1,4]dioxan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 0.06 g (0.19 mmol) of 1-(2-[1,4]dioxan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole and 0.071 g (0.26 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard purification, 0.019 g (65% of yield) were obtained.

reactant | 1-(2-[1,4]dioxan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole | 0.19 mmol, 0.06 g | O1C(COCC1)CCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C19H26N2O2
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 0.26 mmol, 0.071 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-{4-[1-(2-[1,4]dioxan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-2-methoxy-benzoic acid | O1C(COCC1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C28H34N2O5
